US07319152B2
3-(1-oxo-2,3-dihydro-1H-inden-5-yl)benzonitrile
The title compound was prepared from 5-bromo-1-indanone and 3-cyanophenyl boronic acid according to the coupling procedure as described in example 6. MS m/z 234; HRMS: calcd for C16H11NO+H+, 234.09134; found (ESI, [M+H]+), 234.0905;

reactant | 5-bromo-1-indanone | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | 3-cyanophenyl boronic acid | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
product | 3-(1-oxo-2,3-dihydro-1H-inden-5-yl)benzonitrile | O=C1CCC2=CC(=CC=C12)C=1C=C(C#N)C=CC1 | C16H11NO
